US08754103B2
Ethyl 3-(6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)benzoate, prepared as described above was stirred in 40% CH3NH2 in H2O 2O (2.5 mL) and EtOH (1.5 mL) at 60° C. in a sealed tube overnight. The reaction mixture was concentrated and purified by HPLC followed by further purification with prep-TLC (5% MeOH/CH2Cl2) to afford N-methyl-3-(6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)benzamide.

reactant | Ethyl 3-(6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)benzoate | FC(OC1=CC=C(C=C1)C=1C=CC=2N(C1)C(=NN2)C=2C=C(C(=O)OCC)C=CC2)(F)F | C22H16F3N3O3
reactant | EtOH | 1.5 mL | CCO | C2H6O
reactant | CH3NH2 | CN | CH5N
solvent | H2O | 2.5 mL | O | H2O
product | N-methyl-3-(6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)benzamide | CNC(C1=CC(=CC=C1)C1=NN=C2N1C=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F)=O | C21H15F3N4O2
